# passa-baixas sallen-key com Q=10, e freq=(1/2pi)5kHz

V1 1 0 DC 1
R1 1 2 10e3
R2 2 3 10e3
C1 2 4 400e-9
C2 3 0 1e-9
O1 4 0 3 4

.TRAN 30e-3 10e-6 GEAR4 1
