7
IS 0 1 DC 1e-3
RL 1 0 1e3
R1 1 2 20e3
IS2 2 0 DC 2e-3
RL2 0 2 500
RX 1 3 10e6
RY 3 2 10e6

RZ 3 5 1e9
G1 0 5 1 2 3
RL_G1 5 6 1
RL_G2 6 0 1

R_void_1 6 7 1e-3
R_void_2 7 6 2e-3
R_void_3 5 5 3e-3
R_void_4 3 4 1e3
R_void_5 0 0 1e9

.TRAN 2 1 GEAR 1
