L0100 19532 19276 1E-3 IC=0
L0200 19534 19278 0.25E-3
L0300 19536 19280 0.1111111111E-3
C0100 19531 19275 1E-6 IC=1
C0200 19533 19277 1E-6 IC=1
C0300 19535 19279 1E-6 IC=1
E0400 19794 19538 19793 19537 1
E0504 20052 19796 20051 19795 1
E0605 20310 20054 20309 20053 1
.TRAN 0.003 0.0003E-3 GEAR 1 UIC
