9
R0102 1 2 1000
R0304 3 4 1000
R0506 5 6 1000
R0205 2 5 1000
C0701 7 1 10E-9 IC=2
C0803 8 3 10E-9
$0704 7 4 9 0 1 0 1
$0806 8 6 9 0 1 0 1
O0500 5 0 2 0
O0100 1 0 7 0
O0300 3 0 8 0
V0900 9 0 PULSE 0 2 0 0 0 0.7E-5 2E-5 1000
.TRAN 5E-4 5E-7 GEAR 1 UIC
